US08309554B2
To a −40° C. solution of methyl-2-chloro-4-amino-benzoate (0.6 g, 3.23 mmol), Boc2O (2.12 g, 9.6 mmol) and TEA (1.8 ml, 6.6 mmol) in MeCN (8 mL) was added and DMAP (47 mg, 6.1 mmol). The reaction mixture was allowed to warm gradually to room temperature and stirred for 48 h and volatiles removed. The residue was purified by column chromatography using 0-50% EtOAc/Hexanes to provide compound methyl-2-chloro-4-(bis-Boc-amino)-benzoate as a clear syrup (830 mg).

reactant | methyl-2-chloro-4-amino-benzoate | 3.23 mmol, 0.6 g | COC(C1=C(C=C(C=C1)N)Cl)=O | C8H8ClNO2
reactant | Boc2O | 9.6 mmol, 2.12 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeCN | 8 mL | CC#N | C2H3N
catalyst | DMAP | 6.1 mmol, 47 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | methyl-2-chloro-4-(bis-Boc-amino)-benzoate | 830 mg | COC(C1=C(C=C(C=C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)Cl)=O | C18H24ClNO6
